US05011932
Preparation of butyric acid [1-(4-pyridinyl)ethylidene]hydrazide 1-oxide hydrate, Compound 289
A mixture of 5.48 gm (0.04 mole) of 4-acetylpyridine 1-oxide, 4.09 gm (0.04 mole) of butyric acid hydrazide and 100 ml of absolute ethanol is refluxed 6 hours. The reactions mixture is evaporated in vacuo to give a solid. The crude product is crystallized from ethyl acetate/ethanol to yield 7.41 gm (84%) of the title compound; mp 209.7°.

reactant | 4-acetylpyridine 1-oxide | 0.04 mole, 5.48 gm | C(C)(=O)C1=CC=[N+](C=C1)[O-] | C7H7NO2
reactant | butyric acid hydrazide | 0.04 mole, 4.09 gm | C(CCC)(=O)NN | C4H10N2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | butyric acid [1-(4-pyridinyl)ethylidene]hydrazide 1-oxide hydrate | 7.41 gm, 84% | O.N1=CC=C(C=C1)C(C)=N[NH+](C(CCC)=O)[O-] | InChI=1S/C11H15N3O2.H2O/c1-3-4-11(15)14(16)13-9(2)10-5-7-12-8-6-10;/h5-8,14H,3-4H2,1-2H3;1H2
